US07786165B2
5-(benzyloxy)-2-bromo-1,3-dimethylbenzene
To a solution of 4-bromo-3,5-dimethylphenol (8.00 g, 39.8 mmol) and benzyl bromide (5.80 mL, 47.7 mmol) in N,N-dimethylformamide (130 mL) was added potassium carbonate (8.25 g, 59.7 mmol), and the mixture was stirred at 80° C. for 8 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-hexane/ethyl acetate=97/3) to give the title compound (9.97 g, yield 86%) as a colorless oil.

reactant | 4-bromo-3,5-dimethylphenol | 39.8 mmol, 8.00 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | benzyl bromide | 47.7 mmol, 5.80 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 59.7 mmol, 8.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 130 mL | CN(C=O)C | C3H7NO
product | 5-(benzyloxy)-2-bromo-1,3-dimethylbenzene | 9.97 g, yield 86% | C(C1=CC=CC=C1)OC=1C=C(C(=C(C1)C)Br)C | C15H15BrO
